US05646173
A solution of 10.6 g of 5,6-difluoro-1-indanone, 13.1 ml of 3-buten-2-ol and 110 mg of p-toluenesulfonic acid in 110 ml of 2,2-dimethoxy-propane was boiled under reflux for 64 hours on a water separator filled with molecular sieve (0.4 nm, 2 mm pearl shaped). The reaction mixture was subsequently concentrated in a vacuum and purified by column chromatography on silica gel (hexane/diethyl ether 2:1). In addition to 3.6 g of educt there were obtained 5.32 g (38%) of (RS)-2-(2-buten-1-yl)-5,6-difluoro-1-indanone as a brown oil.

reactant | 5,6-difluoro-1-indanone | 10.6 g | FC=1C=C2CCC(C2=CC1F)=O | C9H6F2O
reactant | 3-buten-2-ol | 13.1 ml | CC(C=C)O | C4H8O
reactant | p-toluenesulfonic acid | 110 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | 2,2-dimethoxy-propane | 110 ml | COC(C)(C)OC | C5H12O2
product | (RS)-2-(2-buten-1-yl)-5,6-difluoro-1-indanone | 5.32 g, 38% | C(C=CC)C1C(C2=CC(=C(C=C2C1)F)F)=O | C13H12F2O
